US04395577
Preparation of N-(2-ethyl-5-nitrobenzyl)acetamide
4-Ethylnitrobenzene (7.55 g; 0.05 mol) is added in small increments to a stirred solution of acetamide (5.9 g; 0.05 mol) and paraformaldehyde (1.6 g; 0.05 mol) in concentrated sulfuric acid (60 ml). This reaction mixture is stirred for 17 hours at 55° C. and then poured onto ice. A precipitate results which is recrystallized from butyl acetate to give 6.2 g (i.e., 56% yield) of product. This product has the following characteristics: melting point of 123° to 128° C.; i.r. 3275, 1640 and 1660 cm-1 (sh); mass. spec. m/e 222.

reactant | 4-Ethylnitrobenzene | 0.05 mol, 7.55 g | C(C)C1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO2
reactant | acetamide | 0.05 mol, 5.9 g | C(C)(=O)N | C2H5NO
reactant | paraformaldehyde | 0.05 mol, 1.6 g | C=O | CH2O
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-ethyl-5-nitrobenzyl)acetamide | 56% yield | C(C)C1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-] | C11H14N2O3
